US07714022B2
3-(4-Nitro-phenoxy)-propionic acid methyl ester:
Neat AcCl (0.27 mL; 3.8 mmol) was added to a suspension of 3-(4-nitro-phenoxy)-propionic acid (1.591 g; 7.53 mmol) in dry MeOH (8.0 mL). A soln formed followed by a ppt. After sitting at 4° C. overnight, product was collected by filtration as a white microcrystalline solid (1.316 g; 78%). The mother liquor contained pure product by HPLC. LC-MS 226 ([M+H]+).

reactant | AcCl | 3.8 mmol, 0.27 mL | C(=O)(C)Cl | C2H3ClO
reactant | 3-(4-nitro-phenoxy)-propionic acid | 7.53 mmol, 1.591 g | [N+](=O)([O-])C1=CC=C(OCCC(=O)O)C=C1 | C9H9NO5
solvent | MeOH | 8.0 mL | CO | CH4O
product | 3-(4-Nitro-phenoxy)-propionic acid methyl ester | COC(CCOC1=CC=C(C=C1)[N+](=O)[O-])=O | C10H11NO5
